US05017606
4-(Prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyl alcohol was prepared from 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy)-tetrahydropyran and propargyl chloride, by a two stage procedure similar to that described in Example 4.

reactant | 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy)-tetrahydropyran | BrC1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F | C12H11BrF4O2
reactant | propargyl chloride | C(C#C)Cl | C3H3Cl
product | 4-(Prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyl alcohol | C(C#C)C1=C(C(=C(CO)C(=C1F)F)F)F | C10H6F4O
